US08389527B2
To a 2 dram vial was added 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (32 mg, 0.064 mmol) and (trans)-cyclohexane-1,4-diamine (146 mg, 1.280 mmol). The reaction mixture was heated neat at 160° C. for 1 hour. The solution was diluted with DCM and washed with water. The organic layer was concentrated to dryness and then dissolved in neat TFA and heated to 80° C. for 2 hours. The solution was concentrated in vacuo and the residue was purified via preparative HPLC to give 6-((trans-4-aminocyclohexyl)amino)-8-((5-methyl-2-pyridinyl)amino)-N-4-pyridinylimidazo[1,2-b]pyridazine-3-carboxamide (14.2 mg, 0.031 mmol, 48.5% yield). HPLC Rt=2.19 minutes (Waters Sunfire C18 column 4.6×50 mm):0%-100% B. Solvent B: 90% MeOH, 10% H2O, 0.1% TFA). Solvent A: 10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min) [M+H]=458.

reactant | 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.064 mmol, 32 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)N(C2=NC=C(C=C2)C)CC2=CC=C(C=C2)OC | C26H22ClN7O2
reactant | (trans)-cyclohexane-1,4-diamine | 1.280 mmol, 146 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-((trans-4-aminocyclohexyl)amino)-8-((5-methyl-2-pyridinyl)amino)-N-4-pyridinylimidazo[1,2-b]pyridazine-3-carboxamide | 0.031 mmol, 14.2 mg, 48.5% yield | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)NC2=NC=C(C=C2)C | C24H27N9O
